US06165944
1.16 g (3.8 mmol) of methyl 2-chloro-3-hydrazinocarbonyl-4-methylsulfonylbenzoate and 10 ml of triethyl orthoformate were heated under reflux for 6 hours. The precipitate that had formed was filtered off with suction, washed with n-hexane and subsequently taken up in 20 ml of toluene. After the addition of p-toluenesulfonic acid, the mixture was heated at reflux for 3 hours and then cooled, washed with water, dried and concentrated. 0.62 g (52% of thoery) of methyl 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoate was obtained.

reactant | methyl 2-chloro-3-hydrazinocarbonyl-4-methylsulfonylbenzoate | 3.8 mmol, 1.16 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)NN)S(=O)(=O)C | C10H11ClN2O5S
reactant | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
product | methyl 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1C=1OC=NN1)S(=O)(=O)C | C11H9ClN2O5S
